US06969710B2
4-Butoxy-N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-benzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and 4-n-butoxybenzenesulfonylchloride (67 mg, 0.269 mmol) to give 27 mg as purple solid. M+1 559.4 Calcd 559.20. 1HNMR δ 7.77-7.47 (m, 7H), 6.96-6.93 (m, 2H), 6.55 (d, 1H), 6.52 (d, 1H), 6.41 (d, 1H), 4.01 (t, 2H), 3.63 (app t, 2H), 3.43 (app t, 2H), 3.25 (app t, 2H), 3.17 (app t, 2H), 2.11-2.03 (m, 2H), 1.80-1.71 (m, 2H), 1.53-1.45 (m, 2H), 0.98 (t, 3H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 4-n-butoxybenzenesulfonylchloride | 0.269 mmol, 67 mg | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
product | 4-Butoxy-N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-benzenesulfonamide hydrochloride | Cl.C(CCC)OC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCCC1)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C27H34N4O5S2.ClH/c1-2-3-20-36-23-11-13-25(14-12-23)38(34,35)29-26-15-10-22(31-18-7-16-28-17-19-31)21-27(26)30-37(32,33)24-8-5-4-6-9-24;/h4-6,8-15,21,28-30H,2-3,7,16-20H2,1H3;1H
